US07750003B2
1-[4-[4-(2-Hydroxypropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-(1,2-oxazol-3-yl)urea
2-[2-Chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ol (160 mg, 0.59 mmol) was added to 3-(1,2-oxazol-3-yl)-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea (242 mg) and Dichlorobis(triphenylphosphine) palladium catalyst (21 mg) in an 18% DMF in a mixture of 7:3:2 DME:water:ethanol (6 mL). The reaction was heated to 100° C. for 30 minutes in the microwave reactor and cooled to RT. The reaction mixture was acidified with 2M hydrochloric acid and the crude material loaded onto a SCX (10 g) column, the desired material was eluted with 7N ammonia in methanol. The material was further purified by preparative HPLC using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents, to give the desired material (52 mg) as a white solid.

reactant | 2-[2-Chloro-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-4-yl]propan-2-ol | 0.59 mmol, 160 mg | ClC1=NC(=CC(=N1)C(C)(C)O)N1[C@H](COCC1)C | C12H18ClN3O2
reactant | 3-(1,2-oxazol-3-yl)-1-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]urea | 242 mg | O1N=C(C=C1)NC(NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H20BN3O4
reactant | DMF | CN(C)C=O | C3H7NO
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | ethanol | 6 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | DME | COCCOC | C4H10O2
product | 1-[4-[4-(2-Hydroxypropan-2-yl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-(1,2-oxazol-3-yl)urea | 52 mg | OC(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NC1=NOC=C1 | C22H26N6O4
